US04705858
Methyl isocyanide (5.04 g., 0.026 mol) was added to (±)-tropan-2-one (2 g., 0.0143 mol) in dimethoxyethane (80 ml) and the solution cooled to 0° C. Ethanol (2 ml) was added followed by addition of potassium tert-butoxide (5.64 g, 6.05 mol). The mixture was then heated at 50° C. for three hours, cooled and poured into a saturated potassium carbonate solution (300 ml). This was extracted with ethyl acetate (3×100 ml) and the combined extracts dried (K2CO3), filtered and evaporated to give a crude oil which was abosorbed on alumina (40 g, grade 1 neutralised by addition of 10% water) from ethereal solution. The solution was eluted with a progressively graded mixture of ether, ethyl acetate and methanol to give 8-methyl-8-azabicyclo[3.2.1]octane-2nitrile (1.1 g--46%) as an oil.

reactant | Methyl isocyanide | 0.026 mol, 5.04 g | C[N+]#[C-] | C2H3N
reactant | (±)-tropan-2-one | 0.0143 mol, 2 g | [C@H]12C(CC[C@H](CC1)N2C)=O | C8H13NO
reactant | potassium tert-butoxide | 6.05 mol, 5.64 g | CC(C)([O-])C.[K+]
reactant | potassium carbonate | 300 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 80 ml | C(OC)COC | C4H10O2
solvent | Ethanol | 2 ml | C(C)O | C2H6O
product | 8-methyl-8-azabicyclo[3.2.1]octane-2nitrile | CN1C2C(CCC1CC2)C#N | C9H14N2
